US04626533
1.0 g. of 7-bromoacetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid and 0.23 g. of 1-methyl-2-mercapto-imidazole were reacted and worked up according to Example 15. Thus 0.67 g. (60%) of 7-(1-methylimidazole-2-ylthio)-acetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid were obtained.

reactant | 7-bromoacetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid | BrCC(=O)NC1[C@@H]2N(C(=C(CS2)CNC(C2=C(C=CC=C2Cl)Cl)=O)C(=O)O)C1=O | C17H14BrCl2N3O5S
reactant | 1-methyl-2-mercapto-imidazole | CN1C(=NC=C1)S | C4H6N2S
product | 7-(1-methylimidazole-2-ylthio)-acetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid | 60% | CN1C(=NC=C1)SC1[C@@H]2N(C(=C(C(S2)NC(C)=O)CNC(C2=C(C=CC=C2Cl)Cl)=O)C(=O)O)C1=O | C21H19Cl2N5O5S2
